US07056917B2
(E) Ethyl 4-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-2-pyridinecarboxylate
Ethyl 4-hydroxy-2-pyridinecarboxylate (19.5 g, 0.057 mol) dissolved in dimethylformamide (200 ml) was added with a solution of 2-(chloromethyl)-4-isopropyl-1,3-thiazole (11 g, 0.063 mol) in dimethylformamide (150 ml). The mixture was added with potassium iodide (9.5 g) and potassium carbonate (12 g) at room temperature, then heated to 110° C. and stirred for 1 hour. The reaction solution was returned to room temperature, and the solvent was evaporated under reduced pressure. The residue was diluted with chloroform and washed with water. The resulting organic layer was washed with saturated brine, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (chloroform) to obtain 8.049 g (46%) of the title compound.

reactant | Ethyl 4-hydroxy-2-pyridinecarboxylate | 0.057 mol, 19.5 g | OC1=CC(=NC=C1)C(=O)OCC | C8H9NO3
reactant | 2-(chloromethyl)-4-isopropyl-1,3-thiazole | 0.063 mol, 11 g | ClCC=1SC=C(N1)C(C)C | C7H10ClNS
reactant | potassium iodide | 9.5 g | [I-].[K+]
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-2-pyridinecarboxylate | 8.049 g, 46% | C(C)(C)C=1N=C(SC1)COC1=CC(=NC=C1)C(=O)OCC | C15H18N2O3S
